US09290485B2
a) 1-(4-Pyrazol-1-ylmethyl-benzyl)-1H-imidazole-4-carboxylic acid methyl ester
A mixture of 4-Pyrazol-1-ylmethyl-benzylamine (550 mg, 2.5 mmol), (Z)-methyl-3-(dimethylamino)-2-isocyanoacrylate (380 mg, 2.5 mmol) and DIPEA (1.3 mL, 7.4 mmol) in 20 mL nBuOH was heated to 120° C. for 16 h. The mixture was concentrated in vacuo and the crude product was used in the next step without further purification. LCMS (method A) RtA=1.210 min; [M+H]+=297.0.

reactant | 4-Pyrazol-1-ylmethyl-benzylamine | 2.5 mmol, 550 mg | N1(N=CC=C1)CC1=CC=C(CN)C=C1 | C11H13N3
reactant | (Z)-methyl-3-(dimethylamino)-2-isocyanoacrylate | 2.5 mmol, 380 mg | COC(/C(=C/N(C)C)/[N+]#[C-])=O | C7H10N2O2
reactant | DIPEA | 7.4 mmol, 1.3 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | nBuOH | 20 mL | C(CCC)O | C4H10O
product | 1-(4-Pyrazol-1-ylmethyl-benzyl)-1H-imidazole-4-carboxylic acid methyl ester | COC(=O)C=1N=CN(C1)CC1=CC=C(C=C1)CN1N=CC=C1 | C16H16N4O2
